US06294558B1
2-Acetoxy-1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone (Step 5)
The mixture of 1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone (1.02 g, 2.748 mmol) and lead tetraacetate (1.34 g, 3.023 mmol) in acetic acid (15 mL) was heated at reflux temperature for 8 hours, and cooled down to room temperature. The mixture was evaporated, poured in to ethyl acetate (50 mL) and saturated NaHCO3 solution (50 mL). The formed precipitate was removed by filtration. The filtrate was extracted with ethyl acetate (100 mL), washed with water (50 mL), brine (50 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/2) to provide the subtitle compound (743.7 mg, 63% yield) as a solid.

reactant | 1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone | 2.748 mmol, 1.02 g | BrC1=CC=C(C=C1)C(CC1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C15H12BrFO3S
reactant | lead tetraacetate | 3.023 mmol, 1.34 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-Acetoxy-1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone | 743.7 mg, 63% yield | C(C)(=O)OC(C(=O)C1=CC=C(C=C1)Br)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H14BrFO5S
